US05134142
A mixture of 1-(4-aminophenyl)-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile (1.1 g) and formic acid (5 ml) was refluxed for 30 minutes. The mixture was concentrated and the residue was triturated in water to give crystals of 1-[4-(formylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile (1.1 g).

reactant | 1-(4-aminophenyl)-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile | 1.1 g | NC1=CC=C(C=C1)N1N=C(C=C1C=1SC(=CC1)S(=O)(=O)C)C#N | C15H12N4O2S2
reactant | formic acid | 5 ml | C(=O)O | CH2O2
product | 1-[4-(formylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile | 1.1 g | C(=O)NC1=CC=C(C=C1)N1N=C(C=C1C=1SC(=CC1)S(=O)(=O)C)C#N | C16H12N4O3S2
